US07960567B2
Methyl 2-(4-(6-amino-2-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate (21.4).
Under an N2 atmosphere, methyl 2-(3-chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate (0.220 g, 0.435 mmol) was dissolved in ethyl acetate (10 mL) and tin chloride dihydrate (0.392 g, 0.174 mmol) was added. The reaction was allowed to stir at room temperature for 2.5 h. The reaction was diluted with 10% NaHCO3 (aq) and ethyl acetate. The layers were separated and the organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo, afforded the title compound. LC-MS ESI (pos.) m/z: 476.0 (M+H).

reactant | methyl 2-(3-chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate | 0.435 mmol, 0.220 g | ClC=1C=C(C=CC1OC1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C=C1[N+](=O)[O-])CC(=O)OC | C23H28ClN3O6Si
reactant | tin chloride dihydrate | 0.174 mmol, 0.392 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 2-(4-(6-amino-2-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate | NC=1C(=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C1)OC1=C(C=C(C=C1)CC(=O)OC)Cl | C23H30ClN3O4Si
